US07078414B2
1.19 g (22 mmol) of sodium methoxide are added to 25 mL of methanol at a temperature in the region of 20° C. under an argon atmosphere. After total dissolution, 2.2 g (23 mmol) of guanidine hydrochloride are added. After stirring at a temperature in the region of 20° C. for 0.5 hour, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue, which is suspended in 50 mL of 1,2-dimethoxyethane and then concentrated to dryness again. The residue is suspended in a mixture of 100 mL of tetrahydrofuran and 100 mL of dichloromethane at a temperature in the region of 20° C. under an argon atmosphere, and 1.12 g (3.78 mmol) of 3-chlorocarbonyl-4-cyclopropyl-1-(quinolin-4-yl)-1H-pyrrole dissolved in 25 mL of chloroform are then added. After stirring for 17 hours at a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue, which is triturated in 100 mL of water. After filtration, a gum is obtained, which is dissolved in 50 mL of methanol. The solution is partially concentrated to a volume of from 5 to 10 mL and then purified by chromatography on silica gel [eluent: chloroform/methanol (75/25 by volume)]. After the fractions containing the expected product have been concentrated to dryness under reduced pressure, the residue is dissolved in 20 mL of methanol, and 2 mL of 6 N hydrochloric dioxane are added. The solution obtained is concentrated to dryness under reduced pressure (2.7 kPa) and the residue is then triturated in a mixture of dichloromethane and diethyl ether and filtered, giving 0.77 g of 4-cyclopropyl-3-guanidinocarbonyl-1-(quinolin-4-yl)-1H-pyrrole in the form of a yellow solid melting at 185° C. Mass spectrum (EI): m/e 319 (M+.) (base peak), m/e 260, m/e 231.

reactant | sodium methoxide | 22 mmol, 1.19 g | C[O-].[Na+]
reactant | guanidine hydrochloride | 23 mmol, 2.2 g | Cl.NC(=N)N
reactant | 3-chlorocarbonyl-4-cyclopropyl-1-(quinolin-4-yl)-1H-pyrrole | 3.78 mmol, 1.12 g | ClC(=O)C1=CN(C=C1C1CC1)C1=CC=NC2=CC=CC=C12 | C17H13ClN2O
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 25 mL | CO | CH4O
product | 4-cyclopropyl-3-guanidinocarbonyl-1-(quinolin-4-yl)-1H-pyrrole | 0.77 g | C1(CC1)C=1C(=CN(C1)C1=CC=NC2=CC=CC=C12)C(=O)NC(=N)N | C18H17N5O
